US05028608
To a solution of 1.5 g of 3-trimethylsilylethynyl-4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidine in 100 mL of anhydrous tetrahydrofuran cooled to 0° C. are added under nitrogen 4.75 mL of 1M tetrabutylammonium fluoride in anhydrous tetrahydrofuran. After 5 minutes, the reaction mixture is allowed to attain room temperature and is then stirred for 2 hours. The solvent is removed under reduced pressure and the residue purified by chromatography over silica gel to yield 3-ethynyl-4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidine.

reactant | 3-trimethylsilylethynyl-4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidine | 1.5 g | C[Si](C)(C)C#CN1C=NC=2C(=C1O)C=C(N2)NC(C(C)(C)C)=O | C16H22N4O2Si
reactant | tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 3-ethynyl-4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidine | C(#C)N1C=NC=2C(=C1O)C=C(N2)NC(C(C)(C)C)=O | C13H14N4O2
